US07259183B2
A solution of 2.1 g of 4,4,4-trifluoro-3-trifluoromethyl-butyric acid (10 mmol) in 80 ml DMF was treated with 3.12 g of TBTU (10 mmol) and 8.55 ml of N,N-diisopropylethyl amine and stirred for 5 min at rt under argon. Then 1.93 ml of 4-tert-butylbenzylamine (11 mmol) were added and the reaction mixture was stirred 17 h at rt. The reaction mixture was then diluted with 400 ml water and extracted twice with EtOAc, the combined organic phases washed with brine, dried over magnesium sulfate filtered and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; heptane/EtOAc 4:1) to give 2.14 g of N-(4-tert-butyl-benzyl)-4,4,4-trifluoro-3-trifluoromethyl-butyramide as a light yellow solid (60%).

reactant | 4,4,4-trifluoro-3-trifluoromethyl-butyric acid | 10 mmol, 2.1 g | FC(C(CC(=O)O)C(F)(F)F)(F)F | C5H4F6O2
reactant | TBTU | 10 mmol, 3.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 8.55 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-tert-butylbenzylamine | 11 mmol, 1.93 ml | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | N-(4-tert-butyl-benzyl)-4,4,4-trifluoro-3-trifluoromethyl-butyramide | 2.14 g, 60% | C(C)(C)(C)C1=CC=C(CNC(CC(C(F)(F)F)C(F)(F)F)=O)C=C1 | C16H19F6NO
